US05401772
4-{4-[(2-benzyloxy-1,2-dioxoethyl)amino]-2,6-dichlorophenoxy}-2-isopropylphenyl 3,7,12(3α,5β,7α, 12α)-trihydroxycholan-24-oate (260 rag) and 26 mg of 10% palladium on carbon in 50 ml ethanol are treated with hydrogen on a Parr shaker. Catalyst is removed by filtering through Celite and the filtrate is stripped to give 4-{2,6-dichloro-4-[(2-hydroxy-1,2-dioxoethyl) amino]phenoxy}-2-isopropylphenyl 3,7, 12(3α,5β,7α, 12α)-trihydroxycholan-24-oate, as an amorphane monohydrate, m.p. 180°-92° (dec.).

reactant | 4-{4-[(2-benzyloxy-1,2-dioxoethyl)amino]-2,6-dichlorophenoxy}-2-isopropylphenyl 3,7,12(3α,5β,7α, 12α)-trihydroxycholan-24-oate | O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC5=C(C=C(C=C5)OC5=C(C=C(C=C5Cl)NC(C(=O)OCC5=CC=CC=C5)=O)Cl)C(C)C)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)O | C48H59Cl2NO9
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 26 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-{2,6-dichloro-4-[(2-hydroxy-1,2-dioxoethyl) amino]phenoxy}-2-isopropylphenyl 3,7, 12(3α,5β,7α, 12α)-trihydroxycholan-24-oate | O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC5=C(C=C(C=C5)OC5=C(C=C(C=C5Cl)NC(C(=O)O)=O)Cl)C(C)C)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)O)C)O | C41H53Cl2NO9
